US06268387B1
3-(Naphthalene-2-sulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using 2-napthalenesulfonyl chloride (2.28 g, 10 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10 mmol), and pyridine (25 mL) to afford the product (4.139 g); m.p. 223-225° C. after trituration in hexanes/ethyl acetate (1:1).

reactant | 2-napthalenesulfonyl chloride | 10 mmol, 2.28 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(Naphthalene-2-sulfonylamino)-4-methoxy-N-phenyl-benzamide | 4.139 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C24H20N2O4S
